US05374625
In an atmosphere of argon gas, lithium hydride (8.4 mg, 1.06 mmoles) was added to a suspension of 2-amino-6-(2-methoxyethoxy)purine (221 mg, 1.06 mmoles) in DMF (7 ml). After stirring the mixture for one hour, (1S,2S,3S)-2,3-bis(t-butyldiphenylsilyloxymethyl)-1-cyclopentyl methanesulfonate (370 mg, 0.53 mmole) was added, and the resulting mixture was stirred at 140° C. for one hour. After cooling the mixture, 0.2M phosphate buffer (pH 7) was added, and the product formed was extracted with ethyl acetate. The extract solution was washed with water, washed with saturated aqueous solution of sodium chloride and dried on anhydrous sodium sulfate, and then the solvent was distilled off. The residue was purified by silica gel column chromatography (methylene chloride:methanol=50:1, v/v) to obtain 2-amino-9-[(1R,2R,3S)-2,3-bis(t-butyldiphenylsilyloxymethyl)-1-cyclopentyl]-6-(2-methoxyethoxy)purine (124 mg, Yield 29%).

reactant | lithium hydride | 1.06 mmoles, 8.4 mg | [H-].[Li+]
reactant | 2-amino-6-(2-methoxyethoxy)purine | 1.06 mmoles, 221 mg | NC1=NC(=C2NC=NC2=N1)OCCOC | C8H11N5O2
reactant | (1S,2S,3S)-2,3-bis(t-butyldiphenylsilyloxymethyl)-1-cyclopentyl methanesulfonate | 0.53 mmole, 370 mg | CS(=O)(=O)O[C@@H]1[C@@H]([C@H](CC1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C40H52O5SSi2
reactant | phosphate | 0.2M, pH 7 | P(=O)([O-])([O-])[O-]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | 2-amino-9-[(1R,2R,3S)-2,3-bis(t-butyldiphenylsilyloxymethyl)-1-cyclopentyl]-6-(2-methoxyethoxy)purine | 124 mg, Yield 29% | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@H](CC1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)OCCOC | C47H59N5O4Si2
